US06855821B2
In all cases, the 1,3-oxathiolane ring is prepared in one of the following ways: (i) reaction of an aldehyde derived from a glyoxylate or glycolic acid with mercaptoacetic acid in toluene in the presence of p-toluenesulfonic acid to give 5-oxo-1,3-oxathiolane-2-carboxylic acid (Kraus, J-L., et al., Synthesis, 1991, 1046); (ii) cyclization of anhydrous glyoxylates with 2-mercaptoacetaldehyde diethylacetal at reflux in toluene to give 5-ethoxy-1,3-oxathiolane lactone (U.S. Pat. No. 5,047,407); (iii) condensation of glyoxylic acid ester with mercaptoacetaldehyde (dimeric form) to give 5-hydroxy-1,3-oxathiolane-2-carboxylic ester or (iv) coupling of an acyloxyacetaldehyde with 2,5-dihydroxy-1,4-dithiane, the dimeric form of 2-mercaptoacetaldehyde to form a 2-(ayloxy)methyl-5-hydroxy-1,3-oxathiolane. The lactone, 5-oxo compound, has to be reduced to the corresponding lactol during the process to synthesize nucleosides. The 2-carboxylic acid or its ester also has to be reduced to the corresponding 2-hydroxymethyl derivatives with borane-methylsulfide complex.

reactant | glyoxylate | C(C=O)(=O)[O-]
reactant | glycolic acid | C(CO)(=O)O | C2H4O3
reactant | mercaptoacetic acid | SCC(=O)O | C2H4O2S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-oxo-1,3-oxathiolane-2-carboxylic acid | O=C1CSC(O1)C(=O)O | C4H4O4S
